US05977178
(2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid (701 mg, 2.68 mmol) was dissolved in dichloromethane (4 mL) and N,N-dimethylformamide (4 mL). The solution was cooled to 0° C. 1-Hydroxy-7-azabenzotriazole (365 mg, 2.68 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (617 mg, 3.22 mmol) were successively added. The solution was stirred for 15 min at 0° C. A solution of 3-methyl-5-(((2R)-2-(methylamino)-3-phenylpropoxy)methyl)-1,2,4-oxadiazole (701 mg, 2.68 mmol) in dichloromethane (4 mL) was added. The reaction mixture was stirred for 16hours, while the temperature slowly rose to room temperature. It was diluted with ethyl acetate (100 mL) and extracted with a mixture of saturated sodium chloride solution (50 mL) and water (50 mL). The aqueous phase was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated sodium hydrogen carbonate solution and dried over magensium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g) with ethyl acetate/heptane (2:1) to give 1.23 g of N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(((3-methyl-1,2,4-oxadiazol-5-yl)methoxy)methyl)-2-phenylethyl)-carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester.

reactant | (2R)-2-(N-tert-Butoxycarbonyl-N-methylamino)-3-(2-naphthyl)propionic acid | 2.68 mmol, 701 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 2.68 mmol, 365 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 3.22 mmol, 617 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-methyl-5-(((2R)-2-(methylamino)-3-phenylpropoxy)methyl)-1,2,4-oxadiazole | 2.68 mmol, 701 mg | CC1=NOC(=N1)COC[C@@H](CC1=CC=CC=C1)NC | C14H19N3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(((3-methyl-1,2,4-oxadiazol-5-yl)methoxy)methyl)-2-phenylethyl)-carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester | 1.23 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)COCC1=NC(=NO1)C)C)=O)C)=O | C33H40N4O5
